US08835428B2
Step 8: Methyl 2-(3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl) isoxazole-5-carboxamido)-3-methylbutanoate
3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylic acid (1.0 equiv.) was dissolved in 25 ml of DMF, N,N′-dicyclocarbodiimide (1.2 equiv.) and 1-hydroxybenzotriazole (1.0 equiv.) was added and stirred at room temperature for 10 min. L-valine methyl ester hydrochloride (1.5 equiv.) was neutralized with triethylamine (1.5 equiv.) in 10 ml of DMF and was added to the above mixture and the resulting reaction mixture was stirred at room temperature for 48 hours. DMF was evaporated and then diluted with EtOAc. The organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was dissolved in a chloroform and methanol mixture, adsorbed on silica (100-200 mesh) and purified by flash chromatography on silica gel, and then eluted with 0-2% methanol in chloroform to obtain a crude product.

reactant | 3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl)isoxazole-5-carboxylic acid | 1.0 equiv. | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)O)C)=O | C18H13F2N3O4
reactant | 1-hydroxybenzotriazole | 1.0 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | L-valine methyl ester hydrochloride | 1.5 equiv. | Cl.COC([C@@H](N)C(C)C)=O
reactant | triethylamine | 1.5 equiv. | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(3-(4-(3-(2,6-difluorophenyl)ureido)-3-methylphenyl) isoxazole-5-carboxamido)-3-methylbutanoate | FC1=C(C(=CC=C1)F)NC(NC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C)C)=O | C24H24F2N4O5
